US08466282B2
1-(4-methoxybutyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-N-propyl-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (2.19 g) was dissolved in 4M hydrogen chloride-ethyl acetate (20 ml), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated to give the object product (2.09 g).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 2.19 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CCC | C31H47N5O6
reactant | hydrogen chloride-ethyl acetate | 4M, 20 ml | C(C)(=O)OCC.Cl
product | 1-(4-methoxybutyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-N-propyl-1H-benzimidazole-2-carboxamide dihydrochloride | 2.09 g | Cl.Cl.COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N(CCC)[C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2 | InChI=1S/C26H39N5O4.2ClH/c1-3-10-30(21-17-20(18-27-19-21)25(32)29-12-15-35-16-13-29)26(33)24-28-22-8-4-5-9-23(22)31(24)11-6-7-14-34-2;;/h4-5,8-9,20-21,27H,3,6-7,10-19H2,1-2H3;2*1H/t20-,21+;;/m1../s1
